US08748452B2
To a solution of 4-trifluoromethylpyridine (2.0 g) in ethyl acetate (10 mL) was added bromoacetic acid (1.4 g) at room temperature, and the mixture was heated under reflux overnight. After the reaction mixture was cooled to room temperature, the precipitated solid was collected by filtration, and dried under reduced pressure to give 1-carboxymethyl-4-trifluoromethylpyridinium bromide (1.0 g). To a solution of the obtained compound (1.0 g) in toluene (10 mL) were added acrylonitrile (0.93 g), manganese dioxide (0.91 g) and triethylamine (0.42 g), and the mixture was stirred at 100° C. for 5 hours. The reaction mixture was filtered through a Celite pad, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.31 g).

reactant | 4-trifluoromethylpyridine | 2.0 g | FC(C1=CC=NC=C1)(F)F | C6H4F3N
reactant | bromoacetic acid | 1.4 g | BrCC(=O)O | C2H3BrO2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1-carboxymethyl-4-trifluoromethylpyridinium bromide | 1.0 g | [Br-].C(=O)(O)C[N+]1=CC=C(C=C1)C(F)(F)F | InChI=1S/C8H6F3NO2.BrH/c9-8(10,11)6-1-3-12(4-2-6)5-7(13)14;/h1-4H,5H2;1H
